US09260427B2
To a stirring solution of 1-bromo-4-(heptyloxy)benzene (668 mg, 2.46 mmol) in THF (5 mL) at −78° C. was added butyllithium (985 μl, 2.46 mmol). After 30 min, a solution of tert-butyl 4-oxopiperidine-1-carboxylate (491 mg, 2.46 mmol) in THF (2 mL) was added. After 10 min, the cooling bath was removed and the reaction mixture stirred for 16 h. The reaction mixture was poured onto NH4Cl (50 mL) and extracted with Et2O (3×20 mL). The combined organics were washed with water (20 mL), dried over MgSO4 and evaporated. The crude product was purified by column chromatography (5-70% AcMe in iso-hexanes) to afford 0.4 g (33%) of tert-butyl 4-(4-(heptyloxy)phenyl)-4-hydroxypiperidine-1-carboxylate. LCMS-ESI (m/z) calculated for C23H37NO4: 391.5. found 414.0 [M+Na]+, tR=2.24 min. (Method 4).

reactant | 1-bromo-4-(heptyloxy)benzene | 2.46 mmol, 668 mg | BrC1=CC=C(C=C1)OCCCCCCC | C13H19BrO
reactant | butyllithium | 2.46 mmol, 985 μl | C(CCC)[Li]
reactant | tert-butyl 4-oxopiperidine-1-carboxylate | 2.46 mmol, 491 mg | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | tert-butyl 4-(4-(heptyloxy)phenyl)-4-hydroxypiperidine-1-carboxylate | 0.4 g, 33% | C(CCCCCC)OC1=CC=C(C=C1)C1(CCN(CC1)C(=O)OC(C)(C)C)O | C23H37NO4
